US04347252
Anhydrous potassium carbonate (196 g) was added to a solution of 4-tert-butylpiperidine (98.9 g) in anhydrous acetone (1.2 liters) and the resulting suspension was cooled to 0° C., with stirring under an inert atmosphere. A solution of 1-bromoprop-2-yne (87.5 g) in anhydrous acetone (100 ml) was then added dropwise, the temperature being maintained below 5° C. The reaction mixture was then stirred at ambient temperature for 24 hours, filtered and the filtrate was evaporated under reduced pressure (water-pump). The residual oil thus obtained was extracted with petroleum spirit (b.p. 40°-60° C.). The resulting solution was treated with decolourizing charcoal, filtered and the filtrate was evaporated to give 4-tert-butyl-1-(prop-2-ynyl)piperidine (105 g), m.p. 48°-49° C., which may be further purified by distillation under reduced pressure (water-pump) (b.p. 108°-110° C./15 mm Hg) or by sublimation under reduced pressure (water-pump) at 80° C./20 mm Hg.

reactant | potassium carbonate | 196 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-tert-butylpiperidine | 98.9 g | C(C)(C)(C)C1CCNCC1 | C9H19N
reactant | 1-bromoprop-2-yne | 87.5 g | BrCC#C | C3H3Br
solvent | acetone | 1.2 liters | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-tert-butyl-1-(prop-2-ynyl)piperidine | 105 g | C(C)(C)(C)C1CCN(CC1)CC#C | C12H21N
